US08114868B2
To a solution of (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one (20 g, 50 mmol) and CuCl (12.4 g, 125 mmol) in dry DMF (50 mL) was added H2O (12 mL) and PdCl2 (2.66 g, 15 mmol) at 0˜−5° C. After addition, the mixture was allowed to warm to rt gradually for 48 h under O2. After TLC showing the stating material had disappeared, the solid was filtered off. Water (200 mL) and EtOAc (50 mL) were added. The layers were separated and the aqueous layer was extracted with EtOAc (3×40 mL). The combined organic layer was washed with brine, dried over Na2SO4, filtered and concentrated to give a residue, which was purified by column chromatography to give (S)-3-(S)-1-(4-bromo-phenyl)ethyl)-6-(2-oxopropyl)-6-phenyl-1,3-oxazinan-2-one (12 g, 58%).

reactant | (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one | 50 mmol, 20 g | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)Br)C1=CC=CC=C1 | C21H22BrNO2
reactant | H2O | 12 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | CuCl | 125 mmol, 12.4 g | Cl[Cu]
catalyst | PdCl2 | 15 mmol, 2.66 g | Cl[Pd]Cl
product | 6-(2-oxopropyl)-6-phenyl-1,3-oxazinan-2-one | 12 g, 58% | O=C(CC1(CCNC(O1)=O)C1=CC=CC=C1)C | C13H15NO3
